US04474802
Next, to a solution of 18 g of dimethyl methanephosphonate in 294 ml of anhydrous tetrahydrofuran was added at -78° C. 86 ml of n-butyl lithium (1.5N), and the mixture was stirred for 20 mins. To the thus prepared reaction mixture was added a solution of 10.4 g of the above-mentioned ester in 20 ml of anhydrous tetrahydrofuran. Then, the mixture was stirred for 15 mins at -78° C. and for 1 hour at room temperature, and 300 ml of ether was added. The solution was washed with 150 ml of aqueous saturated solution of oxalic acid, 150 ml of water and 50 ml of aqueous saturated solution of sodium chloride and condensed. The residue was distilled under a reduced pressure to give 14.7 g of dimethyl 3-methyl-2-oxo-hept-5-yne-phosphonate (138° to 142° C./0.62 mmHg).

reactant | dimethyl methanephosphonate | 18 g | CP(OC)(=O)OC | C3H9O3P
reactant | n-butyl lithium | 1.5N, 86 ml | C(CCC)[Li]
reactant | ether | 300 ml | CCOCC | C4H10O
reactant | tetrahydrofuran | 294 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | dimethyl 3-methyl-2-oxo-hept-5-yne-phosphonate | 14.7 g | CC(C(CP(OC)(=O)OC)=O)CC#CC | C10H17O4P
